US08614206B2
To a solution of 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid (784 mg, 2.2 mmol) in DCM (40 mL) was added PyBOP (1.46 g, 2.8 mmol) and the mixture stirred at room temperature for 30 min. A solution of N-(1-(4-Amino-1-methyl-1H-pyrazol-5-yl)-5-fluoroazepan-4-yl)-2,2,2-trifluoroacetamide (647 mg, 2.0 mmol) and DIPEA (0.59 mL, 3.4 mmol) in DCM (40 mL) was then added and the mixture was stirred at room temperature for 16 hr. The mixture was diluted with DCM (60 mL) and washed with water (30 mL). The organic layer was separated, passed through a phase separation cartridge and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave tert-butyl 2-(2,6-difluorophenyl)-4-(5-(4-fluoro-5-(2,2,2-trifluoroacetamido)azepan-1-yl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate as an off-white solid (1.32 g).

reactant | 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid | 2.2 mmol, 784 mg | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)O | C15H14F2N2O4S
reactant | PyBOP | 2.8 mmol, 1.46 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N-(1-(4-Amino-1-methyl-1H-pyrazol-5-yl)-5-fluoroazepan-4-yl)-2,2,2-trifluoroacetamide | 2.0 mmol, 647 mg | NC=1C=NN(C1N1CCC(C(CC1)F)NC(C(F)(F)F)=O)C | C12H17F4N5O
reactant | DIPEA | 3.4 mmol, 0.59 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(2,6-difluorophenyl)-4-(5-(4-fluoro-5-(2,2,2-trifluoroacetamido)azepan-1-yl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 1.32 g | FC1=C(C(=CC=C1)F)C=1SC(=C(N1)C(NC=1C=NN(C1N1CCC(C(CC1)NC(C(F)(F)F)=O)F)C)=O)NC(OC(C)(C)C)=O | C27H29F6N7O4S
